US04025652
To 51.0 g. (0.68 mole) of ammonium thiocyanate in 300 ml. acetone is added 86.8 g. (0.62 mole) of benzoyl chloride. The reaction mixture is refluxed for about 5 min. and then 81 g. (0.62 mole) of 2,6-dimethylaniline in 200 ml. acetone is added at a rate to maintain reflux. The mixture is refluxed for 11/2 hours, cooled, poured into 11/2 liters of ice and water, filtered to obtain 1-(2,6-dimethylphenyl)-3-benzoylthiourea.

reactant | ammonium thiocyanate | 0.68 mole | [S-]C#N.[NH4+]
reactant | acetone | CC(=O)C | C3H6O
reactant | benzoyl chloride | 0.62 mole | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 2,6-dimethylaniline | 0.62 mole | CC1=C(N)C(=CC=C1)C | C8H11N
solvent | water | O | H2O
product | 1-(2,6-dimethylphenyl)-3-benzoylthiourea | CC1=C(C(=CC=C1)C)NC(=S)NC(C1=CC=CC=C1)=O | C16H16N2OS
